Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Avelox / bacitracin / ceftazidime / Prilosec / Tegaderm
 
Attending: ___.
 
Chief Complaint:
Pleuritic chest pain
 
Major Surgical or Invasive Procedure:
___
Right VATS pleural biopsy and wedge resection of the lower lobe 
x 2.

 
History of Present Illness:
Ms. ___ is a ___ never smoker with hx of with ALL/AML 
leukemia
in ___.  She was treated with chemo, relapsed in ___, then
treated with BMT and total body irradiation. In ___ she had
thyroid cancer and meningioma. Her thyroid cancer was treated
with surgery and radioactive iodine. Her meningioma was removed
surgically. In ___, the meningioma grew back, and was again
removed surgically. In ___, she was diagnosed with breast
cancer. She underwent bilateral mastectomy and took Tamoxifen. 

In ___, she had pleuritic chest pain. She was
eventually found to have a pleural effusion that was tapped at
___. A report she brought to this visit stated that cytology
was concerning for malignancy, possible adenocarcinoma. However,
she said that a day later, the team that was taking care of her
told her the report was wrong and that there was no c/f
malignancy. Since then, she has been put on prednisone for the
pleural effusion, as some providers thought that it was related
to rheumatoid arthritis. Other providers have been concerned for
mesothelioma. She says that her pleuritic chest pain goes away
when she is on prednisone. 

PET scans were performed in ___ and ___. She 
has
a right apical lesion that is growing in size. She currently
reports that she has pleuritic chest pain. She denies fevers,
chills, cough, weight loss, nausea, or emesis. 

 
Past Medical History:
PMH:
*Diagnosed with ALL/AML leukemia in ___.  Treated with chemo
*Relapsed in ___, treated with BMT and total body irradiation
___, Thyroid cancer and Meningioma.  Thyroid cancer treated
with surgery and radioactive iodine.  Meningioma removed
surgically.
___, Meningioma grows back, removed surgically.
___, breast cancer diagnosis.  Treated with bilateral
mastectomy and Tamoxifen (now completed)
Fatty liver

PSH: 
Bone marrow transplant
Thyroidectomy
Left supraclavicular lymph node excision
Meningioma removal x2
Bilateral mastectomy with tissue implants 
___ gallbladder removal
Leg surgery

 
Social History:
___
Family History:
Father: skin cancer
Other: pancreatic cancer, gastric cancer, breast cancer, ovarian
cancer
 
Physical Exam:
BP: 133/65. Heart Rate: 88. O2 Saturation%: 99. Weight: 112.8.
Height: 64. BMI: 19.4. Temperature: 98.0. Resp. Rate: 16. Pain
Score: 0.
GENERAL        
[] WN/WD  [x] NAD  [x] AAOx3  [ ] abnormal findings:

HEENT          
[x] NC/AT   [] EOMI   [x] PERRL/A   [x] Anicteric
[] OP/NP mucosa normal     [] Tongue midline
[] Palate symmetric  [] Neck supple/NT/without mass
[x] Trachea midline [] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [ ] No fremitus
[] No egophony   [] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [] No JVD   [] PMI nl  [] No edema
[] Peripheral pulses nl    [] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [] ND  [] No mass/HSM   [] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [] Sensation intact/ symmetric
[] Reflexes nl     [] No facial asymmetry [] Cognition intact
[] Cranial nerves intact   [ ] Abnormal findings:

MS     
        
[x] No clubbing   [] cyanosis   [] No edema   [] Gait nl
[] No tenderness  [] Tone/align/ROM nl   [] Palpation nl
[] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [] Supraclavicular nl     [] Axillary nl
[] Inguinal nl   [ ] Abnormal findings: multiple supraclavicular
incisions

SKIN           
[x] No rashes/lesions/ulcers
[] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [] Nl memory   [] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CXR :
Small right basilar pneumothorax status post interval placement 
of a right 
chest tube. 
  
___ CXR :
Right chest tube removed, with small persisting 
hydropneumothorax. 
  

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a right VATS pleural biopsy 
and wedge resection of the lower lobe x 2. She tolerated the 
procedure well and returned to the PACU in stable condition. She 
maintained stable hemodynamics and her pain was controlled with 
Oxycodone and Tylenol.  Her chest tube drained a modest amount 
of thin, bloody fluid and had no air leak.

She remained in the PACU over the first post op night and her 
chest tube was removed early on post op day #1 as the drainage 
was minimal and there was no air leak.  Her post pull chest xray 
revealed a stable right hydropneumothorax. She was using her 
incentive spirometer effectively and her room air saturations 
were 95%. The other port sites were dry.

Her pain remained well controlled and after an uneventful 
recovery she was discharged to home on ___ and will follow 
up with Dr. ___ in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO DAILY 
2. CARVedilol 3.125 mg PO BID 
3. Ranitidine 150 mg PO BID 
4. colistin sulfate (bulk) 1 billion unit miscellaneous DAILY 
5. Calcium Carbonate 500 mg PO TID 
6. Citalopram 10 mg PO QHS 
7. Levothyroxine Sodium 100 mcg PO EVERY OTHER DAY 
8. Levothyroxine Sodium 112 mcg PO EVERY OTHER DAY 
9. Calcitriol 0.25 mcg PO BID 
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Milk of Magnesia 30 mL PO Q12H:PRN Constipation - First Line 
 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: admit order
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Calcitriol 0.25 mcg PO BID  
6.  Calcium Carbonate 500 mg PO TID  
7.  CARVedilol 3.125 mg PO BID  
8.  Citalopram 10 mg PO QHS  
9.  colistin sulfate (bulk) 1 billion unit miscellaneous DAILY  
10.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
11.  Levothyroxine Sodium 100 mcg PO EVERY OTHER DAY  
12.  Levothyroxine Sodium 112 mcg PO EVERY OTHER DAY  
13.  Ranitidine 150 mg PO BID  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right pleural effusion and pleural nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 

 

 

 
 
Followup Instructions:
___